US04294760
1-Methyl-5-(4-methylbenzoyl)pyrrole-2-acetic acid
Methyl 5-[cyanohydroxy(4-methylphenyl)methyl]-1-methylpyrrole-2-acetate, 55 mg (0.185 mmole) was heated on a steam bath in 15 percent NaOH (1.5 ml) for 3.5 hours. The reaction was cooled on ice for one hour then filtered. The solid was dissolved in distilled water, hot filtered, cooled, 3 N HCl was added to precipitate 0.48 g (100 percent) of 1-methyl-5-(4-methylbenzoyl)pyrrole-2-acetic acid, mp 153°-158°, undepressed by admixture with authentic material.

reactant | Methyl 5-[cyanohydroxy(4-methylphenyl)methyl]-1-methylpyrrole-2-acetate | C(#N)C(C1=CC=C(N1C)CC(=O)OC)(C1=CC=C(C=C1)C)O | C17H18N2O3
solvent | NaOH | 1.5 ml | [OH-].[Na+]
product | 1-Methyl-5-(4-methylbenzoyl)pyrrole-2-acetic acid | CN1C(=CC=C1C(C1=CC=C(C=C1)C)=O)CC(=O)O | C15H15NO3
